US07989460B2
A mixture of 7-{[1-(tert-butoxycarbonyl)piperidin-4-yl]methoxy}-4-chloro-6-methoxyquinazoline (4.6 g), 5-hydroxy-3-methylindole (2 g), (Journal of Organic Chemistry 1993, 58, 3757), potassium carbonate (3.1 g) and DMF (20 ml) was stirred and heated to 90° C. for 2 hours. The solid was removed by filtration washed with acetonitrile and the combined filtrates concentrated to dryness under vacuum. The product so obtained was triturated under ether/petroleum ether (8/2), collected by filtration and dried to give 7-{[1-(tert-butoxycarbonyl)piperidin-4-yl]methoxy}-6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]quinazoline (5.8 g).

reactant | 7-{[1-(tert-butoxycarbonyl)piperidin-4-yl]methoxy}-4-chloro-6-methoxyquinazoline | 4.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C20H26ClN3O4
reactant | 5-hydroxy-3-methylindole | 2 g | OC=1C=C2C(=CNC2=CC1)C | C9H9NO
reactant | potassium carbonate | 3.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 7-{[1-(tert-butoxycarbonyl)piperidin-4-yl]methoxy}-6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]quinazoline | 5.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C(=CNC2=CC1)C)OC | C29H34N4O5
